US08669255B2
ethyl 4-(6-(trifluoromethyl)pyridin-2-yl)piperazine-2-carboxylate
2-Bromo-6-(trifluoromethyl)pyridine (13.56 g, 60 mmol) and ethyl piperazine-2-carboxylate (U.S. Patent App. Publ. US2004/0147559, 9.49 g, 60.0 mmol) were mixed in dry dimethyl sulfoxide (40 mL) and then treated with N,N-diisopropylethylamine (31.1 mL, 180 mmol). The mixture was heated to 80° C. and stirred for 4 days. The solution was concentrated, and the residue was purified on a silica gel column (hexane:ethyl acetate=1:3) to give the title compound. 1H NMR (300 MHz, methanol-d4) δ ppm 1.27 (t, 3H, J=7 Hz), 2.83 (ddd, 1H, J=12, 9, 3 Hz), 3.11 (ddd, 1H, J=12, 5, 3 Hz), 3.33-3.38 (m, 1 H), 3.41-3.50 (m, 1 H), 3.56-3.62 (m, 1 H), 3.81 (ddd, 1H, J=13, 4, 3 Hz), 4.15-4.25 (m, 3 H), 7.00 (t, 2H, J=8 Hz), 7.65-7.75 (m, 1 H); MS (DCI) m/z 304 (M+H)+.

reactant | 2-Bromo-6-(trifluoromethyl)pyridine | 60 mmol, 13.56 g | BrC1=NC(=CC=C1)C(F)(F)F | C6H3BrF3N
reactant | ethyl piperazine-2-carboxylate | 60.0 mmol, 9.49 g | N1C(CNCC1)C(=O)OCC | C7H14N2O2
reactant | N,N-diisopropylethylamine | 180 mmol, 31.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | ethyl 4-(6-(trifluoromethyl)pyridin-2-yl)piperazine-2-carboxylate | FC(C1=CC=CC(=N1)N1CC(NCC1)C(=O)OCC)(F)F | C13H16F3N3O2
